US07348337B2
Preparation of 4-Methoxy-7-(3-hydroxy-1-butyn-1-yl)-6-azaindole:
To a mixture of 4-methoxy-7-bromo-6-azaindole (0.200 g, 0.88 mmol), PdCl2(PhCN)2 (0.017 g, 0.044 mmol), tri-2-furylphosphine (0.0410 g, 0.176 mmol) and CuI (0.017 g, 0.088 mmol) was added piperidine (10 mL), followed by 3-butyn-2-ol (0.09 mL, 1.15 mmol). The mixture was heated at 80° C. for 6 h and then the solvent was removed in vacuo. The residue was partitioned with EtOAc-H2O and then the aqueous phase was separated and re-extracted with EtOAc (×2). The combined organic layers were washed (H2O, brine), dried (Na2SO4) and concentrated to afford the title compound (0.200 g, 95%) as a brown solid which was of sufficient purity for use in the following step:

reactant | 4-methoxy-7-bromo-6-azaindole | 0.88 mmol, 0.200 g | COC1=C2C=CNC2=C(N=C1)Br | C8H7BrN2O
reactant | tri-2-furylphosphine | 0.176 mmol, 0.0410 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | 3-butyn-2-ol | 1.15 mmol, 0.09 mL | CC(C#C)O | C4H6O
catalyst | PdCl2(PhCN)2 | 0.044 mmol, 0.017 g | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
catalyst | CuI | 0.088 mmol, 0.017 g | [Cu]I
solvent | piperidine | 10 mL | N1CCCCC1 | C5H11N
product | 4-Methoxy-7-(3-hydroxy-1-butyn-1-yl)-6-azaindole | 0.200 g, 95% | COC1=C2C=CNC2=C(N=C1)C#CC(C)O | C12H12N2O2
